US08486953B2
Preparation of 2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-amine
To a solution of 3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine (2.31 g, 10.3 mmol) in anhydrous MeOH (20 mL) was added ammonium formate (1.2 g, 19.1 mmol) and palladium hydroxide on carbon (20%, 0.40 g). The mixture was stirred at ambient temperature for 8 hours when an additional aliquot of ammonium formate (1.0 g) was added. The mixture was heated at 50° C. for 4 hours, the solution adjusted to pH 8 with formic acid before further heating at 50° C. for one hour. The reaction was filtered through Celite and the catalyst residue washed with MeOH. The solvent was concentrated in vacuo to give a deep purple solid. The crude product was purified by ion-exchange chromatography (SCX-2 eluting with hydrochloric acid/MeOH ammonia/MeOH). The product crystallised as a white solid (1.8 g, 90%).

reactant | 3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 10.3 mmol, 2.31 g | [N+](=O)([O-])C=1C(=NC=CC1)OC1CCOCC1 | C10H12N2O4
reactant | ammonium formate | 19.1 mmol, 1.2 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 1.0 g | C(=O)[O-].[NH4+]
reactant | formic acid | C(=O)O | CH2O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.40 g | [OH-].[OH-].[Pd+2]
product | 2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-amine | O1CCC(CC1)OC1=NC=CC=C1N | C10H14N2O2
